* G:\SwCADIII\lib\sym\EXTRA\VolReg\TL431A.asc
.SUBCKT TL431A Ref Anode Cathode
R1 Ref Anode 1e6
D4 Anode 4 2V5
D5 Anode Cathode Dc
D1 Ref Cathode Dc
G2 Cathode 4 6 Anode 90m
G1 Anode 5 Ref 4 1
C1 5 Anode 1n Rpar=1k
R2 6 5 700k
D2 4 Ref Dc
D3 Anode 6 Di
C2 Cathode 6 40p Rser=6k Rpar=400k
*.model D D
*.lib G:\SwCADIII\lib\cmp\standard.dio
.model Di D(Ron=10m)
.model Dc D(Ron=7 Vfwd=.6 Vrev=36)
.model 2V5 D(Ron=.13 Vfwd=.6 Vrev=2.5 Roff=7k)
* TL431A behavioral model by analog@ieee.org
.backanno
.ends
